US05167949
c) 4-Amino-2-(ethoxymethyl)pteridine
A mixture of 36.0 g (0.30 mole) of 3-amino-2-pyrazinecarbonitrile [prepared according to A. Albert and K. Ohta, J. Chem. Soc. C, 1970, 1540] and 46.7 g of 2-ethoxyacetamidine in 700 ml of absolute control is refluxed for 2 hours 30 minutes under a nitrogen atmosphere. After cooling, the precipitate obtained is isolated by filtration. It is purified by recrystallization from ethanol. Yld: 52.0 g (84%), m.p. 152°-154° C.

reactant | 3-amino-2-pyrazinecarbonitrile | 0.30 mole, 36.0 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-ethoxyacetamidine | 46.7 g | C(C)OCC(=N)N | C4H10N2O
product | 4-Amino-2-(ethoxymethyl)pteridine | NC1=NC(=NC2=NC=CN=C12)COCC | C9H11N5O
